US08541421B2
1H-Benzo[c][1,2,6]thiadiazin-4-amine-2,2-dioxide
A stirred mixture of 2-cyanoaniline (236 mg, 2.0 mmol), sulfamide (192 mg, 2.0 mmol) and DBU (304 mg, 2.0 mmol) was heated at 160° C. under nitrogen for 3 days. After cooling to room temperature, the reaction mixture was diluted with water and extracted three times with EtOAc. The aqueous layer was removed under vacuum and the residue was purified by chromatography on silica gel eluting with 10% MeOH in dichloromethane to give the title compound as a pale yellow solid. 1H NMR (400 MHz, DMSO-d6) δ7.03 (dd, J=0.8, 8.0 Hz, 1H), 7.12 (dt, J=0.8, 8.0 Hz, 1H), 7.56 (dt, J=0.8, 8.0 Hz, 1H), 7.85 (dd, J=0.8, 8.0 Hz, 1H). MS 198 (MH+).

reactant | 2-cyanoaniline | 2.0 mmol, 236 mg | C(#N)C1=C(N)C=CC=C1 | C7H6N2
reactant | sulfamide | 2.0 mmol, 192 mg | S(=O)(=O)(N)N | H4N2O2S
reactant | DBU | 2.0 mmol, 304 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | water | O | H2O
product | 1H-Benzo[c][1,2,6]thiadiazin-4-amine-2,2-dioxide | N1S(N=C(C2=C1C=CC=C2)N)(=O)=O | C7H7N3O2S
